US07915300B2
4-{2-[4-(2-Methoxy-ethyl)-piperazin-1-yl]-thiazol-4-yl}-benzoic acid
4-[4-(4-Carboxy-phenyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester (5.0 mmol) was dissolved in hydrochloric acid in dioxane (4N, 25 ml) and the reaction stirred at RT for 2 h. The reaction was concentrated in vacuo to yield 4-(2-piperazin-1-yl-thiazol-4-yl)-benzoic acid. Trimethoxyethane (6.5 mmol) was dissolved in aqueous hydrochloric acid (1N, 10 ml) and the reaction heated at 50° C. for 1.5 h. The reaction was allowed to cool to RT and was then added to a suspension of 4-(2-piperazin-1-yl-thiazol-4-yl)-benzoic acid (5.0 mmol) in acetonitrile (25 ml) and sodium acetate buffer (1N, pH 5.5, 10 ml). The reaction was stirred at RT for 1.5 h. Sodium cyanoborohydride (6.5 mol) was added and the reaction stirred at RT for 16 h. The reaction was concentrated in vacuo and the product purified by flash chromatography (silica gel, 10% methanol in dichloromethane) to give the title product as a colourless oil (0.9 g). m/z=348 (100% M+H) in MS ES+.

reactant | Trimethoxyethane | 6.5 mmol | COC(C)(OC)OC | C5H12O3
reactant | 4-(2-piperazin-1-yl-thiazol-4-yl)-benzoic acid | 5.0 mmol | N1(CCNCC1)C=1SC=C(N1)C1=CC=C(C(=O)O)C=C1 | C14H15N3O2S
reactant | Sodium cyanoborohydride | 6.5 mol | C(#N)[BH3-].[Na+]
solvent | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | sodium acetate | 1N, 10 ml, pH 5.5 | C(C)(=O)[O-].[Na+]
product | 4-{2-[4-(2-Methoxy-ethyl)-piperazin-1-yl]-thiazol-4-yl}-benzoic acid | 0.9 g | COCCN1CCN(CC1)C=1SC=C(N1)C1=CC=C(C(=O)O)C=C1 | C17H21N3O3S
